US05877199
Methyl (1-methylcarbazol-3-yl)acetate
73 mg of oxalyl chloride was added, with ice-cooling, to a solution of 92 mg of 1-methylcarbazole-3-carboxylic acid, as obtained in Example 27, in 5 ml of methylene chloride. One drop of N,N-dimethylformamide was then added to the reaction mixture, which was next warmed to room temperature, stirred for 2 hours, and then concentrated by evaporation under reduced pressure. 10 ml of diethyl ether and an excess of a solution of diazomethane in diethyl ether were added to the residue thus obtained, and the reaction mixture was stirred for one night at room temperature. Acetic acid and then a saturated aqueous solution of sodium hydrogencarbonate were added to the reaction mixture. The aqueous layer was extracted with ethyl acetate, and the organic extract was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 2 g of silica gel with a 1:1 v/v mixture of hexane and ethyl acetate as the eluent. Subsequently, 6 mg of silver oxide was added to a solution of the eluted residue in 5 ml of methanol. The reaction mixture was refluxed for 5 hours, filtered to remove inorganic materials, and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 2 g of silica gel with a 2:1 v/v mixture of hexane and ethyl acetate as the eluent, to yield 90 mg of the title compound as an oil.

reactant | oxalyl chloride | 73 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methylcarbazole-3-carboxylic acid | 92 mg | CC1=CC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C14H11NO2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | One drop | CN(C=O)C | C3H7NO
product | Methyl (1-methylcarbazol-3-yl)acetate | 90 mg | CC1=CC(=CC=2C3=CC=CC=C3NC12)CC(=O)OC | C16H15NO2
